US04639442
Step 1. 3-(4-Methoxyphenyl)-2-butenenitrile
Diethylcyanomethylphosphonate (85 g) is added dropwise to a stirred suspension of sodium hydride (19.2 g) in 1,2-dimethoxyethane (400 ml) under nitrogen. The solution is cooled in an ice bath and a solution of paramethoxyacetophenone (48 g) in 1,2-dimethoxyethane (80 ml) is added dropwise. The reaction mixture is stirred at RT for three hours and diluted with diethyl ether, washed, dried, filtered and evaporated in vacuo affording the desired product as a solid.

reactant | Diethylcyanomethylphosphonate | 85 g | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | sodium hydride | 19.2 g | [H-].[Na+]
reactant | paramethoxyacetophenone | 48 g | COC1=CC=C(C=C1)C(C)=O | C9H10O2
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-Methoxyphenyl)-2-butenenitrile | COC1=CC=C(C=C1)C(=CC#N)C | C11H11NO
